US04954509
1-(pyrrolidin-1-yl)methyl-2-(3,4-dichlorophenyl)acetyl-7-hydroxy-1,2,3,4-tetrahydroisoquinoline
Prepared as Ex. No. 5, from 3 g (7.61 mmoles) of 1-(pyrrolidin-1-yl)methyl-7-hydroxy-1,2,3,4-tetrahydroisoquinoline dihydrobromide, 1.9 g (9.31 mmoles) of 3,4-dichlorophenylacetic acid, 2.3 ml (16.36 mmoles) of triethylamine and 3.2 g (15.61 mmoles) of dicyclohexylcarbodiimide in 110 ml of dry chloroform.

reactant | 1-(pyrrolidin-1-yl)methyl-7-hydroxy-1,2,3,4-tetrahydroisoquinoline dihydrobromide | 7.61 mmoles, 3 g | Br.Br.N1(CCCC1)CC1NCCC2=CC=C(C=C12)O
reactant | 3,4-dichlorophenylacetic acid | 9.31 mmoles, 1.9 g | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | triethylamine | 16.36 mmoles, 2.3 ml | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | 15.61 mmoles, 3.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | chloroform | 110 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(pyrrolidin-1-yl)methyl-2-(3,4-dichlorophenyl)acetyl-7-hydroxy-1,2,3,4-tetrahydroisoquinoline | N1(CCCC1)CC1(NCCC2=CC=C(C=C12)O)C(CC1=CC(=C(C=C1)Cl)Cl)=O | C22H24Cl2N2O2
